US05342844
1-Cyclopropyl-6-fluoro-1,4-dihydro-7-[3-[4-[(methylamino)methyl]phenyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.80 g, 3.0 mmol) and N-methyl-4-(3-pyrrolidinyl)benzenemethanamine, a procedure analogous to that given in Example 1 provided the title compound (1.11 g, 85%) as an off-white solid, mp 235°-237° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.0 mmol, 0.80 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | N-methyl-4-(3-pyrrolidinyl)benzenemethanamine | CNCC1=CC=C(C=C1)C1CNCC1 | C12H18N2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-7-[3-[4-[(methylamino)methyl]phenyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid | 1.11 g, 85% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)C1=CC=C(C=C1)CNC)F)=O)C(=O)O | C25H26FN3O3
